US06017919
3-Methoxy-2-pentyloxybenzoic acid (1.5 g, 6.3 mmol), methanol (10 ml) and conc. sulfuric acid (1 drop) were mixed, and this solution was refluxed under heating for 7 hours. Methanol was evaporated under reduced pressure, and a saturated aqueous sodium hydrogencarbonate solution (3 ml) was added. The aqueous layer was extracted twice with ethyl acetate (20 ml). The organic layers were combined, washed twice with a saturated aqueous sodium hydrogencarbonate solution (5 ml) and once with saturated brine (5 ml), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. THF (15 ml) was added to the obtained residue in a stream of argon, and the mixture was cooled to 0° C. Lithium aluminum hydride (0.49 g, 13 mmol) was added to this solution, and the mixture was stirred for 1 hour. Water (0.4 ml), a 1N aqueous sodium hydroxide solution (0.4 ml) and water (1.2 ml) were successively added dropwise to the reaction mixture. Ether (60 ml) was added, and the mixture was vigorously stirred for 1 hour. The inorganic salt was filtered off, and the filtrate was concentrated under reduced pressure to give a crude product of (3-methoxy-2-pentyloxyphenyl)methanol. The product was not further purified, and used in the next reaction.

reactant | 3-Methoxy-2-pentyloxybenzoic acid | 6.3 mmol, 1.5 g | COC=1C(=C(C(=O)O)C=CC1)OCCCCC | C13H18O4
reactant | methanol | 10 ml | CO | CH4O
reactant | Lithium aluminum hydride | 13 mmol, 0.49 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1N, 0.4 ml | [OH-].[Na+]
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | Ether | 60 ml | CCOCC | C4H10O
solvent | water | 1.2 ml | O | H2O
solvent | Water | 0.4 ml | O | H2O
product | (3-methoxy-2-pentyloxyphenyl)methanol | COC=1C(=C(C=CC1)CO)OCCCCC | C13H20O3
